US09371320B2
F) 1-(4-(4-(1-(2,6-difluorophenyl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)phenyl)piperidin-1-yl)ethanone
To a solution of 1-(2,6-difluorophenyl)-4-methoxy-3-(4-(piperidin-4-yl)phenyl)-1H-pyrazolo[4,3-c]pyridine (120 mg), triethylamine (0.080 mL) and N,N-dimethylaminopyridine (1.7 mg) in THF (4 mL) was added acetyl chloride (0.080 mL). The reaction mixture was stirred at room temperature for 1 hr. To the reaction mixture was added saturated aqueous sodium hydrogencarbonate solution at 0° C., and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (117 mg).

reactant | 1-(2,6-difluorophenyl)-4-methoxy-3-(4-(piperidin-4-yl)phenyl)-1H-pyrazolo[4,3-c]pyridine | 120 mg | FC1=C(C(=CC=C1)F)N1N=C(C=2C(=NC=CC21)OC)C2=CC=C(C=C2)C2CCNCC2 | C24H22F2N4O
reactant | triethylamine | 0.080 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.080 mL | C(C)(=O)Cl | C2H3ClO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 1-(4-(4-(1-(2,6-difluorophenyl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)phenyl)piperidin-1-yl)ethanone | 117 mg | FC1=C(C(=CC=C1)F)N1N=C(C=2C(=NC=CC21)OC)C2=CC=C(C=C2)C2CCN(CC2)C(C)=O | C26H24F2N4O2
